US06610688B2
4-Chloro-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (1 eq.) was condensed with 3,5-dimethyl-1H-pyrrole-2-carbaldehyde (1 eq.) at room temperature to give (44.5%) of 4-chloro-5-(3,5-dimethyl-1H-pyrrol-2-ylmethylene)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one.

reactant | 4-Chloro-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 1 eq. | ClC=1C2=C(N=CN1)NC(C2)=O | C6H4ClN3O
reactant | 3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 1 eq. | CC1=C(NC(=C1)C)C=O | C7H9NO
product | 4-chloro-5-(3,5-dimethyl-1H-pyrrol-2-ylmethylene)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 44.5% | ClC=1C2=C(N=CN1)NC(C2=CC=2NC(=CC2C)C)=O | C13H11ClN4O
